US03987052
In the manner given in Example 2, 8-propoxy-7-bromo-1,3-dihydro-5-[m-(ethylsulfinyl)phenyl]-2H-1,4-benzodiazepine-2-thione is heated in ethanol with phenylacetic acid hydrazide and the resulting product heated to 250° C. to give 9-propoxy-8-bromo-1-benzyl-6-[ m-(ethylsulfinyl)phenyl]-4H-s-triazolo-[4,3-a][1,4]benzodiazepine.

reactant | 8-propoxy-7-bromo-1,3-dihydro-5-[m-(ethylsulfinyl)phenyl]-2H-1,4-benzodiazepine-2-thione | C(CC)OC1=CC2=C(C(=NCC(N2)=S)C2=CC(=CC=C2)S(=O)CC)C=C1Br | C20H21BrN2O2S2
reactant | phenylacetic acid hydrazide | C1(=CC=CC=C1)CC(=O)NN | C8H10N2O
solvent | ethanol | C(C)O | C2H6O
product | 9-propoxy-8-bromo-1-benzyl-6-[ m-(ethylsulfinyl)phenyl]-4H-s-triazolo-[4,3-a][1,4]benzodiazepine | C(CC)OC1=CC2=C(C(=NCC=3N2C(=NN3)CC3=CC=CC=C3)C3=CC(=CC=C3)S(=O)CC)C=C1Br | C28H27BrN4O2S
